US06995184B2
A) (7-Isopropyl-2-methyl-1H-indol-3-yl)-(2,3-dichlorophenyl)methanone.
120 ml of anhydrous THF are cooled to −5° C. and 36 ml of 3M methylmagnesium bromide in ether are added. The mixture is cooled to −30° C. and then 15 g of 7-isopropyl-2-methyl-1H-indole are added dropwise. The mixture is left stirring for 1 hour between −20° C. and −30° C. and then 30.9 g of 2,3-dichlorobenzoyl chloride, dissolved in 120 ml of THF, are added dropwise. The medium is left to return to AT and is then poured onto 300 ml of a saturated NH4Cl solution. Separation is carried out by settling, the organic layer is evaporated and then the residue is taken up in DCM. The organic phase is washed with a saturated NaCl solution and then it is dried and evaporated. The residue is chromatographed on silica while eluting with an AcOEt/cyclohexane (3/7, v/v) mixture.

reactant | methylmagnesium bromide | 3M, 36 ml | C[Mg]Br
reactant | 7-isopropyl-2-methyl-1H-indole | 15 g | C(C)(C)C=1C=CC=C2C=C(NC12)C | C12H15N
reactant | 2,3-dichlorobenzoyl chloride | 30.9 g | ClC1=C(C(=O)Cl)C=CC=C1Cl | C7H3Cl3O
reactant | NH4Cl | 300 ml | [NH4+].[Cl-]
solvent | ether | CCOCC | C4H10O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | (7-Isopropyl-2-methyl-1H-indol-3-yl)-(2,3-dichlorophenyl)methanone | C(C)(C)C=1C=CC=C2C(=C(NC12)C)C(=O)C1=C(C(=CC=C1)Cl)Cl | C19H17Cl2NO
